US04820727
Step (3) Preparation of N-[[2-Bromo-6-methoxy-5-(trifluoromethyl)-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine
A suspension of N-[[2-bromo-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine, 1,1-dimethylethyl ester (4.68 g, 8.76 mmol) in formic acid (150 mL) was stirred at room temperature under a dry nitrogen atmosphere. After 15 minutes, dissolution occurred. After 11/4 hours, the reaction was diluted with water (1.2 L). The aqueous phase was extracted with ether (2×300 mL). The extracts were combined, dried with magnesium sulfate, and the ether was removed. The residue was suspended in water (150 mL) and filtered. The solid was washed with water (2×30 mL) and dried. The crude product was recrystallized in chloroform:hexane twice to yield the title compound as white needles (2.24 g, 53%), m.p. 167°-168.5° C.

reactant | N-[[2-bromo-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine, 1,1-dimethylethyl ester | 8.76 mmol, 4.68 g | BrC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OCC | C22H23BrF3NO6
solvent | formic acid | 150 mL | C(=O)O | CH2O2
solvent | water | 1.2 L | O | H2O
product | N-[[2-Bromo-6-methoxy-5-(trifluoromethyl)-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine | 2.24 g, 53% | BrC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)O)C(=O)OCC | C18H15BrF3NO6
